US03992535
5.0 gm (0.016 mol) of 4-hydroxy-2-methyl-2H-naphtho[ 2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide were reacted with 2.2 gm (0.02 mol) of 2-amino-4-methylpyridine in 220 ml of xylene analogous to Example 10, and yielded 3.5 gm (58% of theory) of 4-hydroxy-2-methyl-N-(4-methyl-2-pyridyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 221° C (decomp.; from ethyl acetate).

reactant | 4-hydroxy-2-methyl-2H-naphtho[ 2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.016 mol, 5.0 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-4-methylpyridine | 0.02 mol, 2.2 gm | NC1=NC=CC(=C1)C | C6H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 220 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(4-methyl-2-pyridyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 3.5 gm, 58% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NC=CC(=C1)C | C20H17N3O4S
